US04966904
1.15 g of 4-(6-fluoro-3,4-dimethoxyphenyl)-1,2,3,4-tetrahydroisoquinoline was dissolved in 30 ml of dichloromethane, 26.4 ml of 1M boron tribromide-dichloromethane solution was added to the solution under an argon gas stream under stirring under cooling at the internal temperature of -20° to -30° C. The mixture was stirred for 3 hours at room temperature, and then, 7.0 ml of methanol was added dropwise under cooling in dry ice-methanol bath. The mixture was stirred for 30 minutes at room temperature, the crystals which separated out were collected by filtration, affording 1.0 g of 4-(6-fluoro-3,4-dihydroxy-phenyl)-1,2,3,4-tetrahydroisoquinoline hydrobromide.

reactant | 4-(6-fluoro-3,4-dimethoxyphenyl)-1,2,3,4-tetrahydroisoquinoline | 1.15 g | FC1=CC(=C(C=C1C1CNCC2=CC=CC=C12)OC)OC | C17H18FNO2
reactant | boron tribromide dichloromethane | 1M, 26.4 ml | B(Br)(Br)Br.ClCCl
reactant | methanol | 7.0 ml | CO | CH4O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dry ice methanol | C(=O)=O.CO
product | 4-(6-fluoro-3,4-dihydroxy-phenyl)-1,2,3,4-tetrahydroisoquinoline hydrobromide | 1.0 g | Br.FC1=CC(=C(C=C1C1CNCC2=CC=CC=C12)O)O | InChI=1S/C15H14FNO2.BrH/c16-13-6-15(19)14(18)5-11(13)12-8-17-7-9-3-1-2-4-10(9)12;/h1-6,12,17-19H,7-8H2;1H
